US06153612
(S)-2-[4-(4-Benzyl-piperidin-1-yl)-benzenesulfonyl-amino]-3-phenyl-propionic acid
In a manner similar to Example 3(b), (S)-2-(4-fluoro-benzenesulfonylamino)-3-phenyl-propionic acid, sodium salt, and 4-benzyl-piperidine were condensed to give the title compound, mp 164-165° C.

reactant | (S)-2-(4-fluoro-benzenesulfonylamino)-3-phenyl-propionic acid | FC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C15H14FNO4S
reactant | sodium | [Na] | Na
reactant | 4-benzyl-piperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
product | (S)-2-[4-(4-Benzyl-piperidin-1-yl)-benzenesulfonyl-amino]-3-phenyl-propionic acid | C(C1=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C27H30N2O4S
